US04818765
A mixture of 4-fluorophenylacetic acid (123.0 g), 2-propanol (96.0 g), p-toluenesulphonic acid (9.6 g) and benzene (1.3 l) is refluxed for 7 hours with a Dean-Stark separator. The solution is washed with a 10% aqueous solution of sodium carbonate (2×500 ml) and with water (2×500 ml). After drying over magnesium sulphate, the solvent and the excess 2-propanol are evaporated in vacuo. The residue is distilled (51°-53°/3·10-2Torr) to yield isopropyl 4-fluorophenylacetate.

reactant | 4-fluorophenylacetic acid | 123.0 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 2-propanol | 96.0 g | CC(C)O | C3H8O
reactant | p-toluenesulphonic acid | 9.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 1.3 l | C1=CC=CC=C1 | C6H6
product | isopropyl 4-fluorophenylacetate | FC1=CC=C(C=C1)CC(=O)OC(C)C | C11H13FO2
